### PR TITLE
Improve `Data.List.Base.mapMaybe` (#2359; deprecate use of `with` #2123)

### PR DESCRIPTION
**Pull request by jamesmckinna**
Initial commits do side-by-side comparison of new with old.
Also: misc. tidying up. 
If we're happy with the new versions not being a breaking change, then I'll remove the old definitions/proofs.

### CODE REVIEW

File: src/Data/List/Base.agda [hunk 1]
```diff
@@ -49,6 +49,14 @@ map : (A → B) → List A → List B
 map f []       = []
 map f (x ∷ xs) = f x ∷ map f xs
 
+catMaybes′ : List (Maybe A) → List A
+catMaybes′ []             = []
+catMaybes′ (nothing ∷ xs) = catMaybes′ xs
+catMaybes′ (just x  ∷ xs) = x ∷ catMaybes′ xs
```
Comment (JacquesCarette) [inline src/Data/List/Base.agda:55]:
```Agda
catMaybes′ (x  ∷ xs) = maybe _∷_ id x $ catMaybes′ xs
```
?

Comment (jamesmckinna) [reply src/Data/List/Base.agda:55]: Much better!

Comment (jamesmckinna) [reply src/Data/List/Base.agda:55]: What about
```agda
catMaybes″ : List (Maybe A) → List A
catMaybes″ = foldr (maybe′ _∷_ id) []
```
(starting to get dizzy with the possibilities, once you start 'fixing' things...)

Comment (JacquesCarette) [reply src/Data/List/Base.agda]: Personally that is my favourite because it makes reasoning about it simplest: it is very clear which lemmas will apply.

The downside is that it's not very pedagogical, but I don't think that's something we should be aiming for. [More precisely: I would be happy with a `Data.List.Traditional` module with the expanded definitions and proofs of equivalence to the less-expanded definitions used in `.Base`.

**Comment by JacquesCarette** [comment]
I'd like to approve, but this PR should "make up its mind" and just replace the old definitions with the new.

**Comment by jamesmckinna** [comment]
> I'd like to approve, but this PR should "make up its mind" and just replace the old definitions with the new.

Fair enough. In due course... but I think everyone (else) should be satisfied that the new definitions are appropriately equivalent to the previous one.

File: src/Data/List/Properties.agda [hunk 2]
```diff
@@ -122,28 +122,50 @@ map-injective finj {x ∷ xs} {y ∷ ys} eq =
...
 mapMaybe-just []       = refl
 mapMaybe-just (x ∷ xs) = cong (x ∷_) (mapMaybe-just xs)
 
+mapMaybe′-just : (xs : List A) → mapMaybe′ just xs ≡ xs
+mapMaybe′-just []       = refl
+mapMaybe′-just (x ∷ xs) = cong (x ∷_) (mapMaybe′-just xs)
+
 mapMaybe-nothing : (xs : List A) →
-                   mapMaybe {B = A} (λ _ → nothing) xs ≡ []
+                   mapMaybe (λ _ → nothing {A = A}) xs ≡ []
```
Comment (gallais) [inline src/Data/List/Properties.agda:150]: Should this be generalised?

```suggestion
                   mapMaybe (λ _ → nothing {A = B}) xs ≡ []
```

File: src/Data/List/Base.agda (hunk 1 above)
Comment (jamesmckinna) [reply src/Data/List/Base.agda]: Second point might be worth discussing separately as an issue (elsewhere people have complained to me about the lack of a(n equivalent to `haskell`) 'prelude' with which to teach (no `Level`s, 'elementary' definitions, ...)

File: src/Data/List/Properties.agda (hunk 2 above)
Comment (jamesmckinna) [reply src/Data/List/Properties.agda]: And latest commit restores the binding of `B` to `mapMaybe`...

**Comment by jamesmckinna** [comment]
I think the only thing remaining now would be to delete the `MapMaybeTest` module...

File: src/Data/List/Properties.agda [hunk 3]
```diff
@@ -122,28 +122,57 @@ map-injective finj {x ∷ xs} {y ∷ ys} eq =
...
 mapMaybe-just []       = refl
 mapMaybe-just (x ∷ xs) = cong (x ∷_) (mapMaybe-just xs)
 
 mapMaybe-nothing : (xs : List A) →
-                   mapMaybe {B = A} (λ _ → nothing) xs ≡ []
+                   mapMaybe {B = B} (λ _ → nothing) xs ≡ []
 mapMaybe-nothing []       = refl
 mapMaybe-nothing (x ∷ xs) = mapMaybe-nothing xs
 
+module MapMaybeTest where
```
Comment (JacquesCarette) [inline src/Data/List/Properties.agda:142]: Just delete this?

**Review by JacquesCarette — APPROVED** [review]
I'd prefer if the test module was deleted, but the rest looks good.

**Comment by jamesmckinna** [comment]
@Jacques, thanks for this.
I'm happy to remove the `Test` module, but happier still that it's in the commit history, so that if anyone downstream wishes to litigate the equivalence, they can find it...

File: src/Data/List/Base.agda [hunk 4]
```diff
@@ -123,11 +114,11 @@ partitionSums : List (A ⊎ B) → List A × List B
...
-merge R? []       ys       = ys
-merge R? xs       []       = xs
-merge R? (x ∷ xs) (y ∷ ys) = if does (R? x y)
-  then x ∷ merge R? xs (y ∷ ys)
-  else y ∷ merge R? (x ∷ xs) ys
+merge R? []           ys           = ys
+merge R? xs           []           = xs
+merge R? xs@(x ∷ xs₁) ys@(y ∷ ys₁) = if does (R? x y)
+  then x ∷ merge R? xs₁ ys
+  else y ∷ merge R? xs  ys₁
```
Comment (gallais) [inline src/Data/List/Base.agda:121]:
```suggestion
merge R? x∷xs@(x ∷ xs) y∷ys@(y ∷ ys) = if does (R? x y)
  then x ∷ merge R? x∷xs ys
  else y ∷ merge R? xs   y∷ys
```
?

File: src/Data/List/Properties.agda [hunk 5]
```diff
@@ -122,28 +122,34 @@ map-injective finj {x ∷ xs} {y ∷ ys} eq =
 ------------------------------------------------------------------------
 -- mapMaybe
 
+length-catMaybes : ∀ xs → length (catMaybes {A = A} xs) ≤ length xs
+length-catMaybes []        = ≤-refl
+length-catMaybes (x  ∷ xs) = let ih = length-catMaybes xs
+  in maybe {B = λ x → length (catMaybes (x ∷ xs)) ≤ suc (length xs)}
```
Comment (gallais) [inline src/Data/List/Properties.agda:128]: This is maybe just me but I find this a lot less readable.
It adds to the noise by forcing us to explicitly pass the motive `B` instead of
having the *assistant* write it for us.

File: src/Data/List/Properties.agda [hunk 6]
```diff
@@ -122,28 +122,34 @@ map-injective finj {x ∷ xs} {y ∷ ys} eq =
...
   ... | just y  = cong (y ∷_) ih
   ... | nothing = ih
 
   length-mapMaybe : ∀ xs → length (mapMaybe f xs) ≤ length xs
-  length-mapMaybe []       = z≤n
-  length-mapMaybe (x ∷ xs) with ih ← length-mapMaybe xs | f x
-  ... | just y  = s≤s ih
-  ... | nothing = m≤n⇒m≤1+n ih
+  length-mapMaybe xs =
+    ≤-trans (length-catMaybes (map f xs)) (≤-reflexive (length-map f xs))
```
Comment (gallais) [inline src/Data/List/Properties.agda:152]: We should use the equational reasoning kit here.

File: src/Data/List/Properties.agda (hunk 5 above)
Comment (jamesmckinna) [reply src/Data/List/Properties.agda:128]: Yes, I agree with you! Will update.

File: src/Data/List/Base.agda [hunk 7]
```diff
@@ -123,11 +114,11 @@ partitionSums : List (A ⊎ B) → List A × List B
...
-merge R? []       ys       = ys
-merge R? xs       []       = xs
-merge R? (x ∷ xs) (y ∷ ys) = if does (R? x y)
-  then x ∷ merge R? xs (y ∷ ys)
-  else y ∷ merge R? (x ∷ xs) ys
+merge R? []           ys           = ys
+merge R? xs           []           = xs
+merge R? x∷xs@(x ∷ xs) y∷ys@(y ∷ ys) = if does (R? x y)
+  then x ∷ merge R? x∷xs ys
+  else y ∷ merge R? xs   y∷ys
```
Comment (gallais) [inline src/Data/List/Base.agda:121]: Ah! got that backwards!

```suggestion
  then x ∷ merge R? xs   y∷ys
  else y ∷ merge R? x∷xs ys
```

File: src/Data/List/Properties.agda (hunk 6 above)
Comment (jamesmckinna) [reply src/Data/List/Properties.agda]: Done!

**Comment by jamesmckinna** [comment]
That's enough now, I think. 
@gallais could you add to the queue please? 
(still observing the no-self-merging-rule... ;-))

**Review by JacquesCarette — APPROVED** [review]

**Comment by gallais** [comment]
Just FTR: don't @ people in commit messages because they willl
perpetually get notifications when that same commit is pushed
to various forks.

**Comment by JacquesCarette** [comment]
> Just FTR: don't @ people in commit messages because they willl perpetually get notifications when that same commit is pushed to various forks.

I was wondering what that weirdly formatted email I'd just gotten was from.

**Comment by jamesmckinna** [comment]
Ah! Sorry about that!
